data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_133050_2,[C:1](\[C:3]([H:17])([H:18])[H:19])(=[C:6](/[N:7]1[C:4]([C:2]([H:14])([H:15])[H:16])([C:5](=[O:9])[H:12])[N:8]1[H:11])[H:13])[H:10]>>[C:1]([C:3]([H:17])([H:18])[H:19])([C:5](=[O:9])[H:12])(/[C:6](=[N:7]\[C:4]([C:2]([H:14])([H:15])[H:16])=[N:8]/[H:11])[H:13])[H:10],47.78412500002574
MR_593350_0,[C@:1]1([C@@:2]([C:5](=[O:9])[H:14])([O:8][H:11])[H:12])([O:7][H:10])[C@@:3]([C:4]([H:15])([H:16])[H:17])([H:13])[O:6]1>>[C:1](=[C:2](/[O:8][H:11])[H:12])(\[O:6][C@@:3]([C:4]([H:15])([H:16])[H:17])([C:5](=[O:9])[H:14])[H:13])[O:7][H:10],52.42009500002055
MR_220542_2,[C@:1]([C:3]([H:15])([H:16])[H:17])(/[C:5](=[C:6](\[C:4]([H:18])([H:19])[H:20])[H:11])[H:10])([O:7][C:2]([H:12])([H:13])[H:14])[O:8][H:9]>>[C@:1]1([C:3]([H:15])([H:16])[H:17])([O:8][H:9])[C@@:5]([O:7][C:2]([H:12])([H:13])[H:14])([H:10])[C@@:6]1([C:4]([H:18])([H:19])[H:20])[H:11],57.53045499999473
MR_454004_0,[C:1](\[C:2]([C:3]([H:10])([H:17])[H:18])([H:15])[H:16])(=[C:5](\[C:6]([C:4]([H:19])([H:20])[H:21])=[O:9])[N:8]([H:13])[H:14])[N:7]([H:11])[H:12]>>[C:1]1(/[C:5](=[C:6](/[C:4]([H:19])([H:20])[H:21])[O:9][H:10])[N:8]([H:13])[H:14])([N:7]([H:11])[H:12])[C:2]([H:15])([H:16])[C:3]1([H:17])[H:18],58.151679999995736
MR_391871_1,[C:1]([C:2]([H:14])([H:16])[H:17])([C:3]([H:15])([H:18])[H:19])(/[C:4](=[C:6](/[N:5]([H:11])[H:12])[H:13])[O:8][H:10])[O:7][H:9]>>[C:1]([C:2]([H:14])([H:16])[H:17])([C:3]([H:15])([H:18])[H:19])=[C:4]([C@@:6]([N:5]([H:11])[H:12])([O:7][H:9])[H:13])[O:8][H:10],51.492649999972286
MR_193106_2,[N:1]([C:2]1([H:9])[C:3](=[C:4]([H:10])[H:11])[O:6]1)([O:5][H:7])[H:8]>>[N:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])=[O:6])([O:5][H:7])[H:8],65.0453949999617
MR_310219_1,[C:1]([C:3]([H:17])([H:18])[H:19])([C:4]([H:15])([H:16])[H:20])([N:5](/[C:6]([C:2]([H:12])([H:13])[H:14])=[N:8]/[H:11])[O:7][H:9])[H:10]>>[C:1]([C:3]([H:17])([H:18])[H:19])([C:4]([H:15])([H:16])[H:20])([N:8](/[C:6]([C:2]([H:12])([H:13])[H:14])=[N:5]\[O:7][H:9])[H:11])[H:10],63.35177249999305
MR_604368_1,[C:1]([C:4]([C:2]([H:16])([H:17])[H:18])=[O:8])([C:7](=[C:3]([N:5]([H:9])[H:10])[N:6]([H:11])[H:12])[H:15])([H:13])[H:14]>>[C:1](=[C:7]([C:3]([C:4]([C:2]([H:16])([H:17])[H:18])=[O:8])([N:5]([H:9])[H:10])[N:6]([H:11])[H:12])[H:15])([H:13])[H:14],66.6191649999476
MR_262228_0,[C:1]([C:3]([C:2]([H:10])([H:11])[H:12])=[O:6])([O:4][H:7])([O:5][H:8])[H:9]>>[C:1]([C:3]([C:2]([H:10])([H:11])[H:12])([O:6][H:8])[H:9])([O:4][H:7])=[O:5],41.48590749998306
MR_199766_0,[C:1]([N:2]([C:3]([N:4]([H:8])[H:9])=[O:6])[H:7])([N:5]([H:10])[H:11])([H:12])[H:13]>>[C:1]([N:2]([N:5]([H:10])[H:11])[H:7])([C:3]([N:4]([H:8])[H:9])=[O:6])([H:12])[H:13],65.45829000002499
MR_648823_2,[C:1](\[C:2]([O:7][H:10])([H:11])[H:12])([C:4]([H:17])([H:18])[H:19])=[C:5](\[C:3]([H:14])([H:15])[H:16])[O:8][C:6](=[O:9])[H:13]>>[C:1]([C:2]([O:7][H:10])([H:11])[H:12])([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[C:5]([C:6](=[O:9])[H:13])=[O:8],64.79188499999537
MR_239574_0,[C:1]([O:4][O:3][C:2]([O:5][H:7])=[O:6])([H:8])([H:9])[H:10]>>[C:1]([O:4][O:6][C:2](=[O:3])[O:5][H:7])([H:8])([H:9])[H:10],56.01378750000734
MR_377062_0,[C:1](/[C:3]([N:4]([H:8])[H:9])=[C:6](/[C:2]([H:14])([H:15])[H:16])[H:13])([C:5](=[O:7])[H:10])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C:3]([N:4]([H:8])[H:9])([C:5](=[O:7])[H:10])[C:6]1([C:2]([H:14])([H:15])[H:16])[H:13],69.64873500000323
MR_416070_0,[C@@:1]1([C:4]([H:13])([H:14])[H:15])([O:9][C:3]([H:10])([H:11])[H:12])[C:2]([C:5]([H:16])([H:17])[H:18])([C:6]([H:19])([H:20])[H:21])[O:8][O:7]1>>[C:1]1([C:2]([C:5]([H:16])([H:17])[H:18])([C:6]([H:19])([H:20])[H:21])[O:9][C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[O:7][O:8]1,61.84263499998664
MR_541448_0,[C:1]1([H:8])([H:9])[C:3]2([C:5]([H:13])([H:14])[C:4]([C:2]([H:10])([H:11])[H:12])=[N:7]2)[O:6]1>>[C:1]1([H:8])([H:9])/[C:3](=[N:7]\[C:4]([C:2]([H:10])([H:11])[H:12])=[C:5]([H:13])[H:14])[O:6]1,32.50575500000579
MR_390851_0,[C:1](\[C:2]([C:3]([H:15])([H:16])[H:17])([C:5]([O:6][H:8])([N:7]([H:11])[H:13])[H:14])[H:10])(=[N:4]/[H:12])[H:9]>>[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])(/[C:5](=[N:7]/[H:13])[H:14])[H:10])([N:4]([H:11])[H:12])([O:6][H:8])[H:9],44.86436750001389
MR_647418_0,[C:1]1([O:6][N:3]([H:9])[H:10])([H:7])[C:2]([N:4]([H:11])[H:12])([H:8])[O:5]1>>[C:1]1([H:7])([H:8])[C:2]([N:4]([H:11])[H:12])([O:6][N:3]([H:9])[H:10])[O:5]1,34.289737499995994
MR_265391_1,[C@:1]([C:2]([O:7][O:8][H:9])([H:12])[H:13])([C:3]([C:5]([H:19])([H:20])[H:21])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[N:6]([H:10])[H:11]>>[C@@:1]([C:2]([C:3]([C:5]([H:19])([H:20])[H:21])([H:14])[H:15])([H:12])[H:13])([C:4]([H:16])([H:17])[H:18])([N:6]([H:10])[H:11])[O:7][O:8][H:9],71.78600000002888
MR_698308_1,[C:1]([C:2]([H:14])([H:15])[H:16])(/[C:4]([C:3]([H:17])([H:18])[H:19])=[C:6](/[N:5]([H:11])[H:12])[H:13])([O:7][O:8][H:9])[H:10]>>[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:4](/[C:3]([H:17])([H:18])[H:19])[C:6]([N:5]([H:11])[H:12])([O:7][O:8][H:9])[H:13])[H:10],40.252242500030206
